US07405229B2
Freshly prepared Jones reagent (2.7 M, 7.0 mL) was added at 0° C. to an acetone (25 mL) solution of (1R,2R,4R,5S)-4-bromo-2-(2-bromophenyl)-5-hydroxycyclohexanecarboxylate (2.50 g, 6.38 mmol) with stirring at room temperature for 40 minutes. The mixture was then diluted with water and extracted with ether (3×). The combined extracts were washed with water, saturated aqueous sodium bicarbonate and brine solutions, and dried (Na2SO4). Concentration in vacuo gave methyl (1R,2R,4R)-4-bromo-2-(2-bromophenyl)-5-oxocyclohexanecarboxylate as a colorless, thick syrup.

reactant | Jones reagent | 2.7 M, 7.0 mL | CC(=O)C.OS(=O)(=O)O.O=[Cr](=O)=O
reactant | acetone | 25 mL | CC(=O)C | C3H6O
reactant | (1R,2R,4R,5S)-4-bromo-2-(2-bromophenyl)-5-hydroxycyclohexanecarboxylate | 6.38 mmol, 2.50 g | Br[C@@H]1C[C@H]([C@@H](C[C@@H]1O)C(=O)[O-])C1=C(C=CC=C1)Br
solvent | water | O | H2O
product | methyl (1R,2R,4R)-4-bromo-2-(2-bromophenyl)-5-oxocyclohexanecarboxylate | Br[C@@H]1C[C@H]([C@@H](CC1=O)C(=O)OC)C1=C(C=CC=C1)Br | C14H14Br2O3
